US08202858B2
3-Methyl-4-(2-piperazin-1-yl-ethoxy)-benzoic Acid Methyl Ester Dihydrochloride
4-[2-(4-Methoxycarbonyl-2-methyl-phenoxy)-ethyl]-piperazine-1-carboxylic acid tert-butyl ester from Example E40.1 (200 mg, 0.53 mmol) was dissolved in 4M HCl solution in dioxan (5 ml). The mixture was stirred for 30 min at room temperature, concentrated in vacuo and azeotroped with toluene to yield the title compound (185 mg, 100%).

reactant | 4-[2-(4-Methoxycarbonyl-2-methyl-phenoxy)-ethyl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)CCOC1=C(C=C(C=C1)C(=O)OC)C | C20H30N2O5
reactant | HCl | 4M | Cl | ClH
solvent | dioxan | 5 ml | O1CCOCC1 | C4H8O2
product | 3-Methyl-4-(2-piperazin-1-yl-ethoxy)-benzoic Acid Methyl Ester Dihydrochloride | 185 mg, 100% | Cl.Cl.COC(C1=CC(=C(C=C1)OCCN1CCNCC1)C)=O | InChI=1S/C15H22N2O3.2ClH/c1-12-11-13(15(18)19-2)3-4-14(12)20-10-9-17-7-5-16-6-8-17;;/h3-4,11,16H,5-10H2,1-2H3;2*1H
